US06559164B1
Triphenylphosphine (95 mg, 0.36 mmol) and dibenzyl phosphate (101 mg, 0.36 mmol) were added to a solution of (2-Hydoxy-ethyl)-carbamic acid 3-(1-methyl-1H-indol-3-yl)-4-(1-methyl-6-nitro-1H-indol-3-yl)-2,5-dioxo-2,5-dihydro-pyrrol-1-ylmethyl ester, prepared as in example 19 (150 mg, 0.289 mmol) in THF (6 mL). The mixture was cooled at −78° C. Diethyl azodicarboxiate (0.057 mL, 0.36 mmol) was added dropwise over 5 min. The cooling bath was removed and the mixture was stirred overnight. The mixture was then evaporated. Chromatography of the residue over silica gel using 2:1-4:1 EtOAc/hexanes gave [2-bis-benzyloxy-phosphoryloxy)-ethyl]-carbamic acid 3-(1-methyl-1H-indol-3-yl)-4-(1-methyl-6-nitro-1H-indol-3-yl)-2,5-dioxo-2,5-dihydro-pyrrol-1-ylmethyl ester (121 mg, 54%).

reactant | Triphenylphosphine | 0.36 mmol, 95 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | dibenzyl phosphate | 0.36 mmol, 101 mg | P(=O)(OCC1=CC=CC=C1)(OCC1=CC=CC=C1)[O-]
reactant | (2-Hydoxy-ethyl)-carbamic acid 3-(1-methyl-1H-indol-3-yl)-4-(1-methyl-6-nitro-1H-indol-3-yl)-2,5-dioxo-2,5-dihydro-pyrrol-1-ylmethyl ester | CN1C=C(C2=CC=CC=C12)C=1C(N(C(C1C1=CN(C2=CC(=CC=C12)[N+](=O)[O-])C)=O)COC(NCCO)=O)=O | C26H23N5O7
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | carbamic acid 3-(1-methyl-1H-indol-3-yl)-4-(1-methyl-6-nitro-1H-indol-3-yl)-2,5-dioxo-2,5-dihydro-pyrrol-1-ylmethyl ester | 121 mg, 54% | CN1C=C(C2=CC=CC=C12)C=1C(N(C(C1C1=CN(C2=CC(=CC=C12)[N+](=O)[O-])C)=O)COC(N)=O)=O | C24H19N5O6
